US05128062
(1) Synthesis of (R)-4-(2-n-Hexyloxypropanoyloxy)benzoic acid
To a solution of p-hydroxybenzoic acid (2.15 g, 15.6 mmol) in methylene chloride (30 ml) and pyridine (10 ml), a solution of (R)-2-n-hexyloxypropanoyl chloride (3.0 g, 15.6 mmol) in methylene chloride (20 ml) was added dropwise and then the mixture was refluxed for 7 hours. After cooling, the resultant mixture was taken up in dilute hydrochloric acid, extracted with ethyl ether; the organic extract was washed twice with dilute hydrochloric acid and with H2O for four times, and dried over anhydrous Na2SO4. The solvent was evaporated and the residue was recrystallized from n-hexane to afford 2.13 g of the title compound as white crystals; mp. 67.0°-72.0° C.

reactant | p-hydroxybenzoic acid | 15.6 mmol, 2.15 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | (R)-2-n-hexyloxypropanoyl chloride | 15.6 mmol, 3.0 g | C(CCCCC)O[C@@H](C(=O)Cl)C | C9H17ClO2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | hydrochloric acid | Cl | ClH
product | (R)-4-(2-n-Hexyloxypropanoyloxy)benzoic acid | 2.13 g | C(CCCCC)O[C@@H](C(=O)OC1=CC=C(C(=O)O)C=C1)C | C16H22O5
